### PR TITLE
[Merged by Bors] - feat: uniqueness of the non-unital continuous functional calculus

### PR DESCRIPTION
**Pull request by j-loreaux**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ContinuousFunction/UniqueCFC.lean [hunk 1]
```diff
@@ -196,3 +196,211 @@ instance NNReal.instUniqueContinuousFunctionalCalculus [UniqueContinuousFunction
...
+
+-- Without this, Lean fails to find an instance of
+-- `AddHomClass (C(X, ℝ≥0)₀ →⋆ₙₐ[ℝ≥0] C(X, ℝ≥0)) C(X, ℝ≥0)₀ C(X, ℝ≥0)`.
+set_option synthInstance.maxHeartbeats 30000 in
+lemma toNNReal_mul_add_neg_mul_add_mul_neg_eq (f g : C(X, ℝ)₀) :
+    ((f * g).toNNReal + (-f).toNNReal * g.toNNReal + f.toNNReal * (-g).toNNReal) =
+    ((-(f * g)).toNNReal + f.toNNReal * g.toNNReal + (-f).toNNReal * (-g).toNNReal) := by
+  apply toContinuousMap_injective
+  simpa only [← toContinuousMapHom_apply, map_add, map_mul, map_neg, toContinuousMapHom_toNNReal]
+    using (f : C(X, ℝ)).toNNReal_mul_add_neg_mul_add_mul_neg_eq g
```
Comment (dupuisf) [inline Mathlib/Topology/ContinuousFunction/UniqueCFC.lean:272]:
```suggestion
-- Without this, Lean fails to find an instance of
-- `AddHomClass (C(X, ℝ≥0)₀ →⋆ₙₐ[ℝ≥0] C(X, ℝ≥0)) C(X, ℝ≥0)₀ C(X, ℝ≥0)`.
lemma toNNReal_mul_add_neg_mul_add_mul_neg_eq (f g : C(X, ℝ)₀) :
    ((f * g).toNNReal + (-f).toNNReal * g.toNNReal + f.toNNReal * (-g).toNNReal) =
    ((-(f * g)).toNNReal + f.toNNReal * g.toNNReal + (-f).toNNReal * (-g).toNNReal) := by
  have : AddHomClass (C(X, ℝ≥0)₀ →⋆ₙₐ[ℝ≥0] C(X, ℝ≥0)) C(X, ℝ≥0)₀ C(X, ℝ≥0) := 
    SemilinearMapClass.toAddHomClass
  apply toContinuousMap_injective
  simpa only [← toContinuousMapHom_apply, map_add, map_mul, map_neg, toContinuousMapHom_toNNReal]
    using (f : C(X, ℝ)).toNNReal_mul_add_neg_mul_add_mul_neg_eq g
```
Still ugly, but less so than the increasing the timeout. Also works for the next one.

Comment (j-loreaux) [reply Mathlib/Topology/ContinuousFunction/UniqueCFC.lean:272]: gross, but okay.

**Comment by dupuisf** [comment]
Thanks!

bors r+
